US07071186B2
(6bS,11aS)-3-methyl-2,3,7,8,9,10,11,11a-octahydro-1H,6bH-azepino[4′,5′:4,5]pyrrolo[1,2,3-de]quinoxaline
Tert-butyl (6bS,11aS)-3-methyl-2,3,6b,7,8,10,11,11a-octahydro-1H,9H-azepino[4′,5′:4,5]pyrrolo[1,2,3-de]quinoxaline-9-carboxylate (115 mg, 0.33 mmol) was dissolved in 20% TFA (3 mL) in CH2Cl2 at rt. The reaction was stirred at rt for 2.5 hrs. Ice chips were added to the reaction, an then it was basified with 50% NaOH until pH=14. Brine (5 mL) was added and then the reaction was extracted with CH2Cl2 (2×10 mL). The combined organic layers were washed with brine, dried, and concentrated to afford the title compound (84.1 mg, 103%) as a viscous oil. 1H NMR (CDCl3, 300 MHz) δ 6.59–6.64 (1H, m), 6.48 (1H, d, J=7.3 Hz), 6.37 (1H, d, J=7.7 Hz), 3.4–3.7 (4H, m), 2.6–3.3 (10H, m), 1.7–2.2 (4H, m) ppm. MS (ESI): 244.2 (base, M+H)

reactant | Tert-butyl (6bS,11aS)-3-methyl-2,3,6b,7,8,10,11,11a-octahydro-1H,9H-azepino[4′,5′:4,5]pyrrolo[1,2,3-de]quinoxaline-9-carboxylate | 0.33 mmol, 115 mg | CN1CCN2C=3C(=CC=CC13)[C@H]1[C@@H]2CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O2
reactant | NaOH | [OH-].[Na+]
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Brine | 5 mL | [Cl-].[Na+].O
product | (6bS,11aS)-3-methyl-2,3,7,8,9,10,11,11a-octahydro-1H,6bH-azepino[4′,5′:4,5]pyrrolo[1,2,3-de]quinoxaline | 84.1 mg, 103% | CN1CCN2C=3C(=CC=CC13)[C@H]1[C@@H]2CCNCC1 | C15H21N3
